US07915250B2
A solution of 3-(aminomethyl)-1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-ol (0.24 g, 0.5 mmol), prepared using procedures similar to those described in Example 3, and commercially available 1,1-bis(methylthio)-2-nitroethylene (0.083 g, 0.5 mmol) in ethanol (5 mL) was stirred at 70° C. for 16 hours. The reaction mixture was concentrated in vacuo. The residue was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over sodium sulfate, filtered and concentrated to afford 0.10 g, (39%) 1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-({[(Z)-1-(methylthio)-2-nitroethenyl]amino}methyl)azetidin-3-ol. MS (EI) for C20H18F3IN4O4S: 595 (MH+).

reactant | 3-(aminomethyl)-1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-ol | 0.5 mmol, 0.24 g | NCC1(CN(C1)C(=O)C1=C(C(=C(C=C1)F)F)NC1=C(C=C(C=C1)I)F)O | C17H15F3IN3O2
reactant | 1,1-bis(methylthio)-2-nitroethylene | 0.5 mmol, 0.083 g | CSC(=C[N+](=O)[O-])SC | C4H7NO2S2
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-({[(Z)-1-(methylthio)-2-nitroethenyl]amino}methyl)azetidin-3-ol | 39% | FC=1C(=C(C=CC1F)C(=O)N1CC(C1)(O)CN/C(=C/[N+](=O)[O-])/SC)NC1=C(C=C(C=C1)I)F | C20H18F3IN4O4S
